US04297513
4'-(2-Hydroxyethyl-mercapto)-3,4-dimethyl-benzophenone
12.2 g (0.05 mol) of 4'-chloro-3,4-dimethylbenzophenone and 4.3 g (0.055 mol) of 2-mercaptoethanol in 50 ml of dimethylacetamide are warmed to 95° under nitrogen. 13.8 g (0.1 mol) of calcined K2CO3 are then added. The suspension is kept at 90°-100° C. for 6 hours. 100 ml of water are poured over the resulting reaction mixture and the product is taken up in ether. The ether layer is washed with water, dried over Na2SO4 and concentrated. The resulting crystals are recrystallised from methanol and dried in vacuo at 60° C. Yield: 10.1 g (71%). Melting point 92-93° C.

reactant | 4'-chloro-3,4-dimethylbenzophenone | 0.05 mol, 12.2 g | ClC1=CC=C(C=C1)C(C1=CC(=C(C=C1)C)C)=O | C15H13ClO
reactant | 2-mercaptoethanol | 0.055 mol, 4.3 g | SCCO | C2H6OS
reactant | K2CO3 | 0.1 mol, 13.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 100 ml | O | H2O
solvent | dimethylacetamide | 50 ml | CC(=O)N(C)C | C4H9NO
solvent | ether | CCOCC | C4H10O
product | 4'-(2-Hydroxyethyl-mercapto)-3,4-dimethyl-benzophenone | OCCSC1=CC=C(C=C1)C(C1=CC(=C(C=C1)C)C)=O | C17H18O2S
